US06924276B2
1,1′-Carbonyldiimidazole (1.3 g, 8.0 mmol) was added to a stirred solution of N-methyl-2,4-pyrrole-dicarboxylic acid (0.6 g, 3.5 mmol) in dimethylformamide (6 mL) under an inert atmosphere and heated to 40° C. After 30 minutes the mixture was allowed to cool, and piperonyl alcohol (1.1 g, 7.1 mmol) was added. The mixture was heated to 60° C. for 3 hours, then poured into water (100 mL), stirred, and acidified with 4N HCl. The resulting mixture was extracted twice with ethyl acetate (60 mL), and the combined extracts were washed successively with water, 0.5 M aqueous sodium bicarbonate, and saturated brine, then dried over MgSO4. The solvent was removed under reduced pressure, and the residue was dissolved in a minimum of hot acetonitrile, cooled, and filtered. The filtrate was taken to dryness under reduced pressure, and the residual product (0.9 g) was chromatographed on a column of silica gel under nitrogen pressure, eluting with ethyl acetate/petroleum ether 2:3. Evaporation of the appropriate fractions and drying afforded 1-methyl-1H-pyrrole-2,4-dicarboxylic acid di-1,3-benzodioxol-5-ylmethyl ester; mp 103-110° C.

reactant | 1,1′-Carbonyldiimidazole | 8.0 mmol, 1.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methyl-2,4-pyrrole-dicarboxylic acid | 3.5 mmol, 0.6 g | CN1C(=CC(=C1)C(=O)O)C(=O)O | C7H7NO4
reactant | piperonyl alcohol | 7.1 mmol, 1.1 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
reactant | HCl | 4N | Cl | ClH
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 1-methyl-1H-pyrrole-2,4-dicarboxylic acid di-1,3-benzodioxol-5-ylmethyl ester | O1COC2=C1C=CC(=C2)C(C2=CC1=C(OCO1)C=C2)OC(=O)C=2N(C=C(C2)C(=O)O)C | C22H17NO8
